US08071565B2
Intermediate BA (3-Hydroxy-benzyl)-carbamic acid phenyl ester
3-Hydroxybenzylamine (200 mg, 1.62 mmol) and sodium hydrogen carbonate (273 mg, 3.25 mmol) suspended in water/DCM (4 mL, 1:1) is treated with phenyl chloroformate (0.204 mL, 1.62 mmol). After stirring at RT overnight, the reaction mixture is diluted with more DCM/water and the organic phase is separated. The organic portion is concentrated in vacuo to afford the titled compound. (MH+244)

reactant | 3-Hydroxybenzylamine | 1.62 mmol, 200 mg | OC=1C=C(CN)C=CC1 | C7H9NO
reactant | sodium hydrogen carbonate | 3.25 mmol, 273 mg | C(O)([O-])=O.[Na+]
reactant | phenyl chloroformate | 1.62 mmol, 0.204 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | water DCM | 4 mL | O.C(Cl)Cl
solvent | DCM water | C(Cl)Cl.O
product | (3-Hydroxy-benzyl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NCC1=CC(=CC=C1)O)=O | C14H13NO3
